US05258380
A mixture of 4.9 parts of 9-[(4-fluorophenyl)methyl]-N-(4-piperidinyl)-9H-purin-8-amine, 1 part of a solution of thiopene in methanol 4%. 120 parts of methanol and 8 parts of 2-propanone was hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 1.5 parts (27.2%) of 9-[(4-fluorophenyl)methyl]-N-[1-(1-methylethyl)-4-piperidinyl]-9H-purin-8-amine; mp. 185.6° C. (compound 138).

reactant | 9-[(4-fluorophenyl)methyl]-N-(4-piperidinyl)-9H-purin-8-amine | FC1=CC=C(C=C1)CN1C2=NC=NC=C2N=C1NC1CCNCC1 | C17H19FN6
reactant | 2-propanone | CC(C)=O | C3H6O
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 9-[(4-fluorophenyl)methyl]-N-[1-(1-methylethyl)-4-piperidinyl]-9H-purin-8-amine | 27.2% | FC1=CC=C(C=C1)CN1C2=NC=NC=C2N=C1NC1CCN(CC1)C(C)C | C20H25FN6
